US07326511B2
Synthesis of N-(ethenesulfonyloxy)-5-norbornene-2,3-dicarboximide
A suspension of 5.38 g (30.0 mmol) of N-hydroxy-5-norbornene-2,3-dicarboximide and CH2Cl2 (120 ml) is successively treated with 2-chloroethanesulfonyl chloride (6.3 ml, 60.0 mmol) at room temperature and triethylamine (12.5 ml, 90.0 mmol) at 0° C. Stirring is continued for 1.5 h at room temperature and the resulting reaction mixture is treated with 10% aqueous sodium carbonate solution (100 ml) and ethyl acetate (200 ml). The organic phase is washed with. water (100 ml), dried over Na2SO4, and concentrated. The residue is further dried under vacuum, providing 5.89 g of pure product as light-yellow solid. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 1.53 (d, 1H), 1.76-1.81 (m, 1H), 3.12 (s, 2H), 3.48 (s, 2H), 6.17 (s, 2H), 6.29 (d, 1H), 6.53 (d, 1H), 6.78 (dd, 1H).

reactant | N-hydroxy-5-norbornene-2,3-dicarboximide | 30.0 mmol, 5.38 g | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | 2-chloroethanesulfonyl chloride | 60.0 mmol, 6.3 ml | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | triethylamine | 90.0 mmol, 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
product | N-(ethenesulfonyloxy)-5-norbornene-2,3-dicarboximide | 5.89 g | C(=C)S(=O)(=O)ON1C(=O)C2C3C=CC(C2C1=O)C3 | C11H11NO5S
